US05968939
7-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-hydroxy-8-methyl-2H-1-benzopyran-2-one
85 ml of triethylamine is agitated in a suspension containing 50 g of 4,7-dihydroxy-8-methyl-2H-1-benzopyran-2-one and 400 ml of tetrahydrofuran. A solution of 76 ml of terbutyldiphenylchlorosilane in 50 ml of tetrahydrofuran is added. The reaction mixture is agitated for 20 hours, then it is poured into a buffer solution of sodium hydrogen phosphate. Extraction is carried out with ethyl acetate, the organic phase is washed with water, dried and brought to dryness. A product is obtained which is taken up in methanol, agitation is carried out for 4 hours, followed by separating, washing and drying. 84,5 g of sought product is obtained.

reactant | triethylamine | 85 ml | C(C)N(CC)CC | C6H15N
reactant | 4,7-dihydroxy-8-methyl-2H-1-benzopyran-2-one | 50 g | OC1=CC(OC2=C1C=CC(=C2C)O)=O | C10H8O4
reactant | terbutyldiphenylchlorosilane | 76 ml | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | sodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
product | 7-[[(1,1-dimethylethyl)diphenylsilyl]oxy]-4-hydroxy-8-methyl-2H-1-benzopyran-2-one | 84,5 g | CC(C)(C)[Si](OC1=C(C2=C(C(=CC(O2)=O)O)C=C1)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H26O4Si
